US04515619
1-phenyl-1-propionyloxy-3-(1,2,3-thiadiazole-5-yl)-urea
9.43 g (0.04 mole) 1-hydroxy-1-phenyl-3-(1,2,3-thiadiazole-5-yl)-urea were under addition of 6.15 ml (0.044 mole) triethylamine dissolved in 100 ml tetrahydrofuran. There were added to this solution under cooling to 20° C., a solution of 3.46 ml (0.04 mole) propionylchloride in 10 ml tetrahydrofuran within about 5 minutes in dropwise fashion and thereafter the resulting mixture was stirred for an hour. After separating off the precipitate which had formed the filtrate was concentrated and the residue taken up in 150 ml of ether. The ether phase was washed with water, dried over magnesium sulfate, again concentrated and the residue digested with diisopropylether.

reactant | 1-hydroxy-1-phenyl-3-(1,2,3-thiadiazole-5-yl)-urea | 0.04 mole, 9.43 g | ON(C(=O)NC1=CN=NS1)C1=CC=CC=C1 | C9H8N4O2S
reactant | triethylamine | 0.044 mole, 6.15 ml | C(C)N(CC)CC | C6H15N
reactant | propionylchloride | 0.04 mole, 3.46 ml | C(CC)(=O)Cl | C3H5ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-phenyl-1-propionyloxy-3-(1,2,3-thiadiazole-5-yl)-urea | C1(=CC=CC=C1)N(C(=O)NC1=CN=NS1)OC(CC)=O | C12H12N4O3S
